US09120749B2
tert-butyl 4-(4-((6-(3-chloro-4-hydroxyphenyl)-3-(cyclopropanecarbonyl)quinolin-4-yl)amino)-1H-pyrazol-1-yl)piperidine-1-carboxylate
Following general procedure D, tert-butyl 4-(4-((6-bromo-3-(cyclopropanecarbonyl)quinolin-4-yl)amino)-1H-pyrazol-1-yl)piperidine-1-carboxylate (54 mg, 0.10 mmol) was reacted with (3-chloro-4-hydroxyphenyl)boronic acid (34 mg, 0.20 mmol) to afford the desired product (62 mg, >99%) as a yellow-brown solid. ESI MS m/z 588 [C32H34ClN5O4+H]+

reactant | tert-butyl 4-(4-((6-bromo-3-(cyclopropanecarbonyl)quinolin-4-yl)amino)-1H-pyrazol-1-yl)piperidine-1-carboxylate | 0.10 mmol, 54 mg | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)NC=1C=NN(C1)C1CCN(CC1)C(=O)OC(C)(C)C | C26H30BrN5O3
reactant | (3-chloro-4-hydroxyphenyl)boronic acid | 0.20 mmol, 34 mg | ClC=1C=C(C=CC1O)B(O)O | C6H6BClO3
product | tert-butyl 4-(4-((6-(3-chloro-4-hydroxyphenyl)-3-(cyclopropanecarbonyl)quinolin-4-yl)amino)-1H-pyrazol-1-yl)piperidine-1-carboxylate | 62 mg, >99% | ClC=1C=C(C=CC1O)C=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)NC=1C=NN(C1)C1CCN(CC1)C(=O)OC(C)(C)C | C32H34ClN5O4
